US08981084B2
Benzoyl peroxide (0.49 g, 2.0 mmol) was added to a solution of methyl 2-(4-fluorophenyl)-4,5-dihydrooxazole-4-carboxylate (9.0 g, 40.3 mmol) in dry benzene (180 mL) and the mixture was refluxed for 15 min. N-bromosuccinimide (8.6 g, 48.3 mmol) was then added and the reaction mixture was refluxed for 2 h. The reaction mixture was quenched with ice-cold water and the crude product was extracted with EtOAc. The combined extracts were washed with 10% aqueous NaHCO3 solution, H2O and brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure. The crude product was purified by column chromatography (silica 60-120 mesh, eluant 10-15% EtOAc in petroleum ether) to get methyl 2-(4-fluorophenyl)oxazole-4-carboxylate (6 g, 67%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.29 (s, 1H), 8.14-8.10 (m, 2H), 7.19-7.15 (t, J=8.5 Hz, 2H), 3.96 (s, 3H). MS (ESI) m/z: Calculated for C11H8FNO3: 221.05. found: 221.8 (M+H)+

reactant | methyl 2-(4-fluorophenyl)-4,5-dihydrooxazole-4-carboxylate | 40.3 mmol, 9.0 g | FC1=CC=C(C=C1)C=1OCC(N1)C(=O)OC | C11H10FNO3
reactant | N-bromosuccinimide | 48.3 mmol, 8.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | benzene | 180 mL | C1=CC=CC=C1 | C6H6
catalyst | Benzoyl peroxide | 2.0 mmol, 0.49 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | methyl 2-(4-fluorophenyl)oxazole-4-carboxylate | 6 g, 67% | FC1=CC=C(C=C1)C=1OC=C(N1)C(=O)OC | C11H8FNO3
